US05429919
Synthesis of the contrast-enhancing agent 5,5-Dimethyl-N-phenylrhodanine (DMPR).
Ammonium phenyldithiocarbamate (93 g, 0.5 mole) and ethyl 2-bromoisobutyrate (98 g, 0.5 mole) were dissolved in ethanol (100 mL) and heated at reflux overnight. The ethanol was distilled off and the residue poured into ice water. The solid was filtered and recrystallized in 95% ethanol. The product had a final weight of 31.4 g and an M.P. of 107-108 degrees.

reactant | Ammonium phenyldithiocarbamate | 0.5 mole, 93 g | C1(=CC=CC=C1)NC([S-])=S.[NH4+]
reactant | ethyl 2-bromoisobutyrate | 0.5 mole, 98 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5,5-Dimethyl-N-phenylrhodanine | CC1(C(N(C(S1)=S)C1=CC=CC=C1)=O)C | C11H11NOS2
